data/rdb19/train.csv
rxn,smiles,ea
917,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([H:30])[H:31])([H:22])[O:23][C:24](=[O:25])[C:26]([H:32])([H:33])[H:34])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:7]([H:17])[H:18]>>[C:19]([C:20]([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[C:21]([N:7]([H:17])[H:18])([H:22])[O:23][C:24](=[O:25])[C:26]([H:32])([H:33])[H:34])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],59.052207164117135
4683,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17]([C:18](=[O:19])[O:20][C:21]=[C:22]([H:27])[H:28])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[O:7][H:16])[H:26])([H:11])[H:12])([H:8])([H:9])[H:10],35.37864153756527
607,[C:18]([O:19][O:20])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:18]([O:19])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([O:6][O:20][H:17])=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],58.74017823068425
3699,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32].[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:18]([C:17]([H:27])([H:28])[H:29])([H:30])[H:31])([H:10])[H:11])([H:7])([H:8])[H:9],57.71124632580904
4324,[C:16]([C:17]([C:18]([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35])[H:29])([H:26])([H:27])[H:28].[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:11])[H:12])([C:7]([H:13])([H:14])[H:15])[H:30])([H:8])([H:9])[H:10],37.593704623752274
3465,[C:17]([C:18](=[C:19]([H:26])[H:27])[C:20](=[O:21])[O:22][H:28])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:20]([C:18]([C:17]([H:23])([H:24])[H:25])=[C:19]([H:26])[H:27])=[O:21])([H:9])[H:10])([H:6])([H:7])[H:8].[O:22][H:28],53.65875541832065
1429,[C:10]([C:11]([C:12]([C:13]([H:23])([H:24])[H:25])[C:14](=[O:15])[O:16][C:17]([H:26])([H:27])[H:28])([H:21])[H:22])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])[H:9])([H:7])[C:12]([C:11]([C:10]([H:18])([H:19])[H:20])([H:21])[H:22])([C:13]([H:23])([H:24])[H:25])[C:14](=[O:15])[O:16][C:17]([H:26])([H:27])[H:28])[H:6],18.5564270321629
3230,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[c:25]1[c:26]([H:36])[c:27]([H:37])[c:28]([H:38])[c:29]([H:39])[c:30]1[H:40])([H:34])[H:35])([H:31])([H:32])[H:33]>>[C:1]([C:2]([H:10])([H:11])[C:23]([C:22]([C:21]([H:31])([H:32])[H:33])([H:34])[H:35])([H:24])[c:25]1[c:26]([H:36])[c:27]([H:37])[c:28]([H:38])[c:29]([H:39])[c:30]1[H:40])([H:7])([H:8])[H:9].[C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20],63.3975324537023
1469,[C:10]([O:11][C:12]([C:13]([H:21])([H:22])[H:23])([C:14]([H:15])[H:16])[H:20])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([O:11][C:12]([C:13]([H:21])([H:22])[H:23])=[C:14]([H:15])[H:16])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])[H:9])([H:7])[H:20])[H:6],32.25191331823589
4871,[C:15]([C:16](=[O:17])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])[H:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])=[C:5]([H:6])[H:7])([H:8])([H:9])[H:10].[H:11][C:20]([C:19]([O:18][C:16]([C:15]([H:21])([H:22])[H:23])=[O:17])[H:24])([H:25])[H:26],33.068535493221134
5505,[C:13]([C:14]([C:15]([H:16])[H:17])([O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[O:4][C:5]([C:6]([H:11])([H:12])[C:15]([C:14]([C:13]([H:22])([H:23])[H:24])([O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])[H:25])([H:16])[H:17])[H:10])([H:7])([H:8])[H:9],15.253726232622284
